US09227985B2
Step 1. Methyl (2-acetylphenoxy)acetate
1-(2-Hydroxyphenyl)ethanone (1.0 g, 7.3 mmol) and methyl bromoacetate (0.70 mL, 7.3 mmol) were combined in acetone (20.0 mL) with potassium carbonate (2.0 g, 15 mmol) and was stirred at room temperature. The reaction mixture was stirred for 18 h, diluted with EtOAc and filtered to remove the solids. The organic layer was concentrated to give the sub-title compound as a clear oil (1.5 g, 100%). LCMS calc. for C11H13O4 (M+H)+: m/z=209.1. found: 209.1.

reactant | 1-(2-Hydroxyphenyl)ethanone | 7.3 mmol, 1.0 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | methyl bromoacetate | 7.3 mmol, 0.70 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 15 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20.0 mL | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl (2-acetylphenoxy)acetate | 1.5 g, 100% | C(C)(=O)C1=C(OCC(=O)OC)C=CC=C1 | C11H12O4
